US08703758B2
B) benzyl 4-(3-fluoro-2-hydroxypropoxy)piperidine-1-carboxylate
A mixture of benzyl 4-(oxiran-2-ylmethoxy)piperidine-1-carboxylate (1.81 g) and tetrabutylammonium dihydrogen trifluoride (3.74 g) was stirred at 120° C. overnight. The reaction mixture was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (960 mg).

reactant | benzyl 4-(oxiran-2-ylmethoxy)piperidine-1-carboxylate | 1.81 g | O1C(C1)COC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C16H21NO4
reactant | tetrabutylammonium dihydrogen trifluoride | 3.74 g | CCCC[N+](CCCC)(CCCC)CCCC.F.F.[F-]
product | benzyl 4-(3-fluoro-2-hydroxypropoxy)piperidine-1-carboxylate | 960 mg | FCC(COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)O | C16H22FNO4
